US07071225B2
Step A. Methyl 1-methoxy-naphthalene-2-carboxylate
To a solution of 1-hydroxy-naphthalene-2-carboxylic acid (5 g, 26.6 mmol) in acetone (100 mL) was added potassium carbonate (11 g, 79.72 mmol) followed by dimethyl sulfate (7.38 g, 58.46 mmol). The reaction mixture was refluxed overnight and then diluted with ethyl acetate (200 mL) and washed with water. The organic layer was dried (MgSO4), and the solvent was removed to give an oil (5.2 g): 1H NMR (CDCl3) δ 3.98 (s, 3H, CH3), 4.06 (s, 3H, CH3), 7.59 (m, 3H, Ar—H), 7.85 (m, 2H, Ar—H), 8.25 (m, 1H, Ar—H); MS 217 (M+1).

reactant | 1-hydroxy-naphthalene-2-carboxylic acid | 26.6 mmol, 5 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | potassium carbonate | 79.72 mmol, 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 58.46 mmol, 7.38 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 1-methoxy-naphthalene-2-carboxylate | 5.2 g | COC1=C(C=CC2=CC=CC=C12)C(=O)OC | C13H12O3
